US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (178 mg, 0.48 mmol) and 2,4-dimethoxypyrimidin-5-boronic acid (176 mg, 0.96 mmol) were reacted. After purification the title compound (73 mg, 39% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6 ) δ 9.04 (d, J=4.9 Hz, 1H), 8.57 (dd, J=5.6, 9.3 Hz, 1H), 8.37 (s, 1H) 7.77 (t, J=9.1 Hz, 1H), 3.99 (s, 3H), 3.84 (s, 3H), 2.93 (m, 1H), 0.70(m, 4H). MS APCI, m/z=385.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 0.48 mmol, 178 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 2,4-dimethoxypyrimidin-5-boronic acid | 0.96 mmol, 176 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
product | 4-amino-N-cyclopropyl-7-fluoro-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide | 73 mg, 39% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C(=NC(=NC1)OC)OC)C(=O)NC1CC1 | C18H17FN6O3
